US06900216B2
A mixture of 2-bromo-1-(5-fluorobenzo[b]thiophen-2-yl)propan-1-one (0.2 g), 2-imidazolidinethione (0.08 g) and ethanol (6 ml) was heated under reflux for 10 minutes. Acetic acid (3 ml) was added, the mixture was heated under reflux for 24 hours, then the solvents were removed in vacuo. Ethanol (10 ml) was added then removed in vacuo, and the residue was dried in vacuo at 60° C. to give 3-(5-fluorobenzo[b]thiophen-2-yl)-3-methyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (0.2 g) as an off-white solid, 1H-nmr (DMSO-d6): δH 2.43 (3H, s, —CH3), 4.22-4.51 (4H, m, —CH2CH2—), 7.36-7.44 (1H, m, ArH), 7.79 (1H, s, ArH), 7.81 (1H, dd, J 9.6 Hz, 2.5 Hz, ArH), 8.13-8.19 (1H, m ArH), 9.3-9.9 (1H, br, H+).

reactant | 2-bromo-1-(5-fluorobenzo[b]thiophen-2-yl)propan-1-one | 0.2 g | BrC(C(=O)C1=CC2=C(S1)C=CC(=C2)F)C | C11H8BrFOS
reactant | 2-imidazolidinethione | 0.08 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 6 ml | C(C)O | C2H6O
solvent | Acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 3-(5-fluorobenzo[b]thiophen-2-yl)-3-methyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 0.2 g | Br.FC1=CC2=C(SC(=C2)C2(N3C(SC2)=NCC3)C)C=C1 | InChI=1S/C14H13FN2S2.BrH/c1-14(8-18-13-16-4-5-17(13)14)12-7-9-6-10(15)2-3-11(9)19-12;/h2-3,6-7H,4-5,8H2,1H3;1H
